US03984573
To a solution of 15.4 g (0.1 mole) of 2-mercaptobenzoic acid in 20 ml of ethanol was added a solution of 3.8 g (95 moles) of sodium hydroxide in 10 ml of ethanol. The ethanol was removed on a rotary evaporator at 50 mm and the residual solid was triturated several times with ethanol to remove any unreacted 2-mercaptobenzoic acid. The washed solid was dried under vacuum overnight to yield sodium 2-mercaptobenzoate: 10.8 g (61% yield).

reactant | 2-mercaptobenzoic acid | 0.1 mole, 15.4 g | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
reactant | sodium hydroxide | 95 moles, 3.8 g | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | sodium 2-mercaptobenzoate | 61% yield | SC1=C(C(=O)[O-])C=CC=C1.[Na+] | InChI=1S/C7H6O2S.Na/c8-7(9)5-3-1-2-4-6(5)10;/h1-4,10H,(H,8,9);/q;+1/p-1
